US09302991B2
<Step-1>: 2-amino-N-(3-(trifluoromethoxy)benzyl)pyrimidine-4-carboxamide
The title compound is prepared in 37% yield (82 mg, a white solid) from (3-(trifluoromethoxy)phenyl)methanamine (137 mg, 0.72 mmol) and 2-aminopyrimidine-4-carboxylic acid (100 mg, 0.72 mmol) by the similar manner in Step-1 of Example 8.

reactant | (3-(trifluoromethoxy)phenyl)methanamine | 0.72 mmol, 137 mg | FC(OC=1C=C(C=CC1)CN)(F)F | C8H8F3NO
reactant | 2-aminopyrimidine-4-carboxylic acid | 0.72 mmol, 100 mg | NC1=NC=CC(=N1)C(=O)O | C5H5N3O2
product | 2-amino-N-(3-(trifluoromethoxy)benzyl)pyrimidine-4-carboxamide | 37% yield | NC1=NC=CC(=N1)C(=O)NCC1=CC(=CC=C1)OC(F)(F)F | C13H11F3N4O2
